Design:  /top/students/UNGRAD/ECE/dolmant/home/potentiostat/2.default
.options  tnom=27
.temp 27
V_I$7827 N$8587 out 0
V_I$5343 N$5748 0 5
V_I$7221 N$7979 inp 0
V_I$3029 vsm 0 -5
V_I$3031 vsp 0 5
V_I$5550 N$5746 0 -5
R_I$7829 N$8587 inm2 rg2
R_I$5344 inm2 out2 rf2
R_I$3027 inm out rf
R_I$3005 0 inm rg
R_I$6412 inp 0 rdrain
X_I$5548_I$1 0 inm2 N$5748 N$5746 out2  LMC6001A/NS 
X_I$3239_I$1 N$7979 inm vsp vsm out  LMC6001A/NS 
I_I$6209 0 inp 5f
.op  NO_SMALL_SIGNAL
*
* Beginning of translation table for device INSTANCE names
*  Netlist Name       Schematic Name
*
*  R_I$7829           /I$7829
*  V_I$5343           /I$5343
*  R_I$5344           /I$5344
*  I_I$6209           /I$6209
*  V_I$3029           /I$3029
*  V_I$3031           /I$3031
*  R_I$3005           /I$3005
*  R_I$3027           /I$3027
*  X_I$3239_I$1       /I$3239/I$1
*  R_I$6412           /I$6412
*  V_I$7221           /I$7221
*  X_I$5548_I$1       /I$5548/I$1
*  V_I$7827           /I$7827
*  V_I$5550           /I$5550
* End of translation table for device INSTANCE names
*
* Beginning of translation table for device MODEL names
*  Netlist Name       Schematic Name
*
*  LMC6001A/NS        LMC6001A/NS
*  ACCUSIM            ACCUSIM
* End of translation table for device MODEL names
*
* Beginning of translation table for NODE names
*  Netlist Name       Schematic Name
*
*  0                  //ground
*  inm2               /inm2
*  N$8587             /N$8587
*  out                /out
*  N$7979             /N$7979
*  inp                /inp
*  out2               /out2
*  N$5748             /N$5748
*  N$5746             /N$5746
*  inm                /inm
*  vsm                /vsm
*  vsp                /vsp
* End of translation table for NODE names
* >KEEP
* >ENDKEEP
.END
